2203-10-23 06:52:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Dyspnea
   24 Hour Events:
   Patient diruresed well overnight.  Pt quite somnolent during day
   yesterday.
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Rash;
   Lisinopril
   Rash;
   Iodine
   Unknown;
   Paper Tape (Topical) (Adhesive Tape)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Dopamine - 3 mcg/Kg/min
   Furosemide (Lasix) - 15 mg/hour
   Dobutamine - 5 mcg/Kg/min
   Other ICU medications:
   Furosemide (Lasix) - [**2203-10-23**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2203-10-23**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 70 (62 - 74) bpm
   BP: 92/46(58) {83/41(52) - 100/59(68)} mmHg
   RR: 18 (8 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
    CVP: 21 (17 - 23)mmHg
   Total In:
                                                                    775 mL
                                                                    191 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                    373 mL
                                                                    191 mL
   Blood products:
                                                                    282 mL
   Total out:
                                                                    520 mL
                                                                    425 mL
   Urine:
                                                                    520 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    255 mL
                                                                   -234 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   GENERAL: Middle aged AA female in NAD. Oriented x3. Mood, affect
   appropriate.
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. .
   NECK: Supple, JVP difficult to assess [**1-15**] RIJ
   CARDIAC: normal S1, S2. Mild holosystolic murmur heard best at apex
   LUNGS:  CTAB, no crackles, wheezes or rhonchi.
   ABDOMEN: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits.
   EXTREMITIES: 1+ edema to ankles bilaterally, warm well perfused
   SKIN: Marked hyperpigmentation of legs, arms, buttocks, back
   PULSES:
   Right: Carotid 2+ Femoral 2+  DP 2+ PT 2+
   Left: Carotid 2+ Femoral 2+  DP 2+ PT 2+
   Labs / Radiology
   108 K/uL
   9.2 g/dL
   148 mg/dL
   4.1 mg/dL
   24 mEq/L
   3.9 mEq/L
   101 mg/dL
   92 mEq/L
   130 mEq/L
   28.0 %
   2.8 K/uL
        [image002.jpg]
                             [**2203-10-23**]  05:38 AM
   WBC
   2.8
   Hct
   28.0
   Plt
   108
   Cr
   4.1
   Glucose
   148
   Other labs: PT / PTT / INR:15.2/22.9/1.3, Lactic Acid:1.2 mmol/L,
   Mg++:2.4 mg/dL
   Assessment and Plan
   68 yo female with h/o CAD s/p CABG, DM, Asthma, presents with worsening
   SOB and fatigue.
   # PUMP: Pt presents with increasing dypsnea, BNP 57,925 and evidence of
   fluid overload on exam with JVP to 12cm-all suggesting a low output
   state. Low output state is also likely exacerbated by her anemia and
   ASD.
   -Will continue dopamine
   -Lasix 100mg IV bolus and begin Lasix gtt for goal negative 1-2L
   -Holding home Imdur given low BP, holding digoxin
   -Consult [**First Name8 (NamePattern2) 359**] [**Last Name (NamePattern1) **] on Monday for outpt mgmt of heart failure
   # [**Name (NI) 6413**] Pt without chest pain, EKG unchanged, Trop 1.07 likely in
   setting of acute renal failure.
   -Continue aspirin, plavix
   -Holding BB for now given low BP
   #Fatigue- Most likely multifactorial including chronic heart failure,
   anemia and Myelofibrosis
   -Transfuse 1 U prbcs
   #Hyponatremia- likley hypervolemic hyponatremia [**1-15**] heart failure.
   -Treat heart failure as above and continue to monitor
   #Acute on Chronic Renal Failure- Most likely poor forward flow in the
   setting of a CHF exacerbation in addition to recent increase in
   Torsemide.
   -Renally dose meds
   -Lasix and dopamine as above to improve forward flow
   #[**Name (NI) **] Pt presented with Lactate 3.4, WBC not elevated but has MDS, 7%
   bands, afebrile. She does have a mildly positive U/A, CXR w/o
   infiltrate.
   -Follow up urine culture- hold on further abx for now.
   -follow up blood and urine cultures
   -Repeat Lactate, check Sv02
   -Check C.diff given diarrhea
   -Add on LFTs
   -RUQ U/S
   #Pneumothorax- [**1-15**] RIJ line placement; follow daily CXR
   -Consult CT surgery to assess
   # Diabetes- diet controlled at home
   -diabetic diet
   -ISS
   #Asthma- Continue home nebs
   #Heme/ [**Name (NI) 6414**] Pt on Aranesp injections q weekly at home, last
   documented [**9-19**] and missed recent appts. Also had chronically low Hct
   as a consequence and has been transfused previously.  Likely part of
   her fatigue/weakness may be [**1-15**] profound anemia'
   -Transfuse 1 U prbcs
   FEN: cardiac, diabetic diet, 1 L fluid restriction
   ACCESS: RIJ
   PROPHYLAXIS:
   -DVT ppx with pneumoboots
   CODE: FULL (confirmed with patient)
   CONTACT: HUSBAND [**Name (NI) 789**] [**Telephone/Fax (1) 6415**]
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2203-10-22**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2203-10-24 06:35:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   [**10-23**]: 1U PRBC.  40 mg IV lasix for + 300 cc at 1815.  80 mg IV lasix
   for even at 0200.  CXR with interval decrease in PTX size.
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   Rash;
   Lisinopril
   Rash;
   Iodine
   Unknown;
   Paper Tape (Topical) (Adhesive Tape)
   Rash;
   Last dose of Antibiotics:
   Infusions:
   Furosemide (Lasix) - 15 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2203-10-24**] 02:00 AM
   Other medications: see below
   Flowsheet Data as of  [**2203-10-24**] 06:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.2
C (97.1
   HR: 58 (56 - 75) bpm
   BP: 98/45(58) {90/41(53) - 106/66(74)} mmHg
   RR: 16 (13 - 23) insp/min
   SpO2: 97%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 61 Inch
    CVP: 18 (13 - 29)mmHg
   Total In:
                                                                  1,709 mL
                                                                    257 mL
   PO:
                                                                    780 mL
                                                                    160 mL
   TF:
   IVF:
                                                                    554 mL
                                                                     97 mL
   Blood products:
                                                                    375 mL
   Total out:
                                                                  1,630 mL
                                                                    570 mL
   Urine:
                                                                  1,630 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     79 mL
                                                                   -313 mL
   Physical Examination
   Labs / Radiology
   100 K/uL
   9.8 g/dL
   105 mg/dL
   3.4 mg/dL
   26 mEq/L
   3.7 mEq/L
   101 mg/dL
   89 mEq/L
   129 mEq/L
   31.0 %
   2.2 K/uL
        [image002.jpg]
                             [**2203-10-23**]  05:38 AM
                            [**2203-10-24**]  05:26 AM
   WBC
   2.8
   2.2
   Hct
   28.0
   31.0
   Plt
   108
   100
   Cr
   4.1
   3.4
   Glucose
   148
   105
   Other labs: PT / PTT / INR:14.6/22.9/1.3, Lactic Acid:1.2 mmol/L,
   Mg++:2.3 mg/dL
   Assessment and Plan
   68 yo female with h/o CAD s/p CABG, DM, Asthma, presents with worsening
   SOB and fatigue.
   .
   # PUMP: Pt presents with increasing dypsnea, BNP 57,925 and evidence of
   fluid overload on exam with JVP to 12cm-all suggesting a low output
   state. Low output state is also likely exacerbated by her anemia and
   ASD.
   -Will continue dopamine
   -Lasix 100mg IV bolus and begin Lasix gtt for goal negative 1-2L
   -Holding home Imdur given low BP, holding digoxin
   -Consult [**First Name8 (NamePattern2) 359**] [**Last Name (NamePattern1) **] on Monday for outpt mgmt of heart failure
   .
   # [**Name (NI) 6413**] Pt without chest pain, EKG unchanged, Trop 1.07 likely in
   setting of acute renal failure.
   -Continue aspirin, plavix
   -Holding BB for now given low BP
   .
   #Fatigue- Most likely multifactorial including chronic heart failure,
   anemia and Myelofibrosis
   -Transfuse 1 U prbcs
   .
   #Hyponatremia- likley hypervolemic hyponatremia [**1-15**] heart failure.
   -Treat heart failure as above and continue to monitor
   .
   #Acute on Chronic Renal Failure- Most likely poor forward flow in the
   setting of a CHF exacerbation in addition to recent increase in
   Torsemide.
   -Renally dose meds
   -Lasix and dopamine as above to improve forward flow
   .
   #[**Name (NI) **] Pt presented with Lactate 3.4, WBC not elevated but has MDS, 7%
   bands, afebrile. She does have a mildly positive U/A, CXR w/o
   infiltrate.
   -Follow up urine culture- hold on further abx for now.
   -follow up blood and urine cultures
   -Repeat Lactate, check Sv02
   -Check C.diff given diarrhea
   -Add on LFTs
   -RUQ U/S
   .
   #Pneumothorax- [**1-15**] RIJ line placement; follow daily CXR
   -Consult CT surgery to assess
   # Diabetes- diet controlled at home
   -diabetic diet
   -ISS
   .
   #Asthma- Continue home nebs
   .
   #Heme/ [**Name (NI) 6414**] Pt on Aranesp injections q weekly at home, last
   documented [**9-19**] and missed recent appts. Also had chronically low Hct
   as a consequence and has been transfused previously.  Likely part of
   her fatigue/weakness may be [**1-15**] profound anemia'
   -Transfuse 1 U prbcs
   .
   .
   FEN: cardiac, diabetic diet, 1 L fluid restriction
   ACCESS: RIJ
   PROPHYLAXIS:
   -DVT ppx with pneumoboots
   CODE: FULL (confirmed with patient)
   CONTACT: HUSBAND [**Name (NI) 789**] [**Telephone/Fax (1) 6415**]
   DISPO: CCU for now
                        Active Medications [**Known lastname 6446**],[**Known firstname **] A.
                  1. Furosemide 5-15 mg/hr IV DRIP INFUSION
   8. Acetaminophen 325-650 mg PO Q6H:PRN
   2. Aspirin 325 mg PO DAILY
   9. Insulin SC Sliding Scale
   3. Clopidogrel 75 mg PO DAILY
   10. Multivitamins 1 TAB PO DAILY
   4. Pravastatin 40 mg PO DAILY
   11. traZODONE 25 mg PO ONCE Duration: 1 Doses
   5. Pantoprazole 40 mg PO Q24H
   12. Fluticasone Propionate 110mcg 2 PUFF IH [**Hospital1 **]
   6. Docusate Sodium 100 mg PO BID:PRN
   13. Albuterol MDI 2 PUFF IH Q4H:PRN
   7. Sarna Lotion 1 Appl TP QID:PRN
   14. Tiotropium Bromide 1 CAP IH DAILY
   .
   .